US04093812
Heat 1.0 g of 1-methyl-3-(5-nitro-2-furyl)pyrazole together with 0.73 g of hexamethylenetetramine and 11.6 g of trifluoroacetic acid for 4.5 hours at boiling point. Add the resulting 4-pyrazolylmethyleneammonium-salt-containing solution to 31 ml of ice water. Stir the thus-obtained admixture for 15 minutes, and make it alkaline with concentrated sodium carbonate solution. Filter off the precipitate and wash it with water until it is neutral to obtain 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde [melting point: 181° to 182° C] with a yield of 79%.

reactant | 1-methyl-3-(5-nitro-2-furyl)pyrazole | 1.0 g | CN1N=C(C=C1)C=1OC(=CC1)[N+](=O)[O-] | C8H7N3O3
reactant | hexamethylenetetramine | 0.73 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 11.6 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde | yield of 79% | CN1N=C(C(=C1)C=O)C=1OC(=CC1)[N+](=O)[O-] | C9H7N3O4
